US07589097B2
3-(6-Cyanomethyl-2-pyridylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 220)
A solution of 3-(6-bromomethyl-2-pyridylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (200 mg, 0.517 mmol) and sodium cyanide (51 mg, 1.03 mmol) in DMF (5 mL) was stirred at 60° C. for 16 h, poured into water (40 mL), extracted with EtOAc (3×8 mL), the combined organic phase dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2;isohexane:EtOAc (1:1)] to give title compound (50 mg, 26%) as a yellow solid.

reactant | 3-(6-bromomethyl-2-pyridylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.517 mmol, 200 mg | BrCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC=CC2)N | C15H12BrN7O
reactant | sodium cyanide | 1.03 mmol, 51 mg | [C-]#N.[Na+]
reactant | water | 40 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(6-Cyanomethyl-2-pyridylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 50 mg, 26% | C(#N)CC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC=CC2)N | C16H12N8O
